US07598289B2
2-(5-Bromo-pentyloxy)-tetrahydro-pyran magnesium
The title compound, a grignard reagent, was prepared from 2-(5-Bromo-pentyloxy)-tetrahydro-pyran by reaction with magnesium.

reactant | 2-(5-Bromo-pentyloxy)-tetrahydro-pyran | BrCCCCCOC1OCCCC1 | C10H19BrO2
reactant | magnesium | [Mg] | Mg
product | 2-(5-Bromo-pentyloxy)-tetrahydro-pyran magnesium | [Mg].BrCCCCCOC1OCCCC1 | InChI=1S/C10H19BrO2.Mg/c11-7-3-1-4-8-12-10-6-2-5-9-13-10;/h10H,1-9H2;
